US08168741B2
(iii) Preparation of 3-methoxycarbonyl-3-(triethoxysilylpropyloxy)-pentanedioic acid dimethyl ester
In a round-bottom flask, 3-allyloxy-3-methoxycarbonyl-pentanedioic acid dimethyl ester (2.74 g, 10 mmol) was introduced in 25 mL of dry toluene, followed by triethoxysilane (2.63 g, 16 mmol). Hydrosilylation catalyst, platinum-divinyltetramethyldisiloxane complex in xylenes solution (0.02 mL), was added and the mixture was stirred at 80° C. in a dry atmosphere for 16 hours. The volatiles were then removed in vacuo. The residue was dissolved in dry dichloromethane, a spatula of activated carbon was added, and the mixture was stirred for 3 hours under nitrogen. The mixture was then filtered over a 0.45 μm Teflon filter and the solution was evaporated to dryness to yield the title compound (3.75 g, 86%) as an oil that was used without further purification.

reactant | 3-allyloxy-3-methoxycarbonyl-pentanedioic acid dimethyl ester | 10 mmol, 2.74 g | COC(CC(CC(=O)OC)(C(=O)OC)OCC=C)=O | C12H18O7
reactant | triethoxysilane | 16 mmol, 2.63 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxycarbonyl-3-(triethoxysilylpropyloxy)-pentanedioic acid dimethyl ester | 3.75 g, 86% | COC(CC(CC(=O)OC)(OCCC[Si](OCC)(OCC)OCC)C(=O)OC)=O | C18H34O10Si
